US07737279B2
C32.1: tert-butyl 6-amino-7-(cyclohexylethynyl)-1-methyl-1H-imidazo[4,5-c]pyridin-4-yl(methyl)carbamate
A1.12 tert-Butyl-6-amino-7-iodo-1-methyl-1H-imidazo[4,5-c]pyridin-4-yl(methyl)carbamate (1.0 g, 2.48 mmol), dichlorobis(triphenylphosphine)palladium (75 mg, 0.11 mmol), ethynylcyclohexane (0.3 g, 2.8 mmol), CuI (25 mg, 0.13 mmol), and diisopropylamine (5 mL) were added to N,N-dimethylformamide (7 mL). The reaction mixture was heated at 95° C. (in preheated oil bath) for 60 min. Additional ethynylcyclohexane (0.3 g, 2.8 mmol) was added to the reaction mixture and heated for another 60 min. The reaction was cooled and diluted with ethyl acetate and washed several times with water. The solvent removed under reduced pressure and the residue was chromatographed on a silica gel column (50%-70% ethyl acetate/hexane) to give 400 mg of C32.1 as a yellow solid. LCMS B: Ret time 3.15 min, (M+H)+=384.41.

reactant | tert-Butyl-6-amino-7-iodo-1-methyl-1H-imidazo[4,5-c]pyridin-4-yl(methyl)carbamate | 2.48 mmol, 1.0 g | C(C)(C)(C)OC(N(C)C1=NC(=C(C2=C1N=CN2C)I)N)=O | C13H18IN5O2
reactant | ethynylcyclohexane | 2.8 mmol, 0.3 g | C(#C)C1CCCCC1 | C8H12
reactant | diisopropylamine | 5 mL | C(C)(C)NC(C)C | C6H15N
reactant | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
reactant | ethynylcyclohexane | 2.8 mmol, 0.3 g | C(#C)C1CCCCC1 | C8H12
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.11 mmol, 75 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.13 mmol, 25 mg | [Cu]I
product | tert-butyl 6-amino-7-(cyclohexylethynyl)-1-methyl-1H-imidazo[4,5-c]pyridin-4-yl(methyl)carbamate | NC1=C(C2=C(C(=N1)N(C(OC(C)(C)C)=O)C)N=CN2C)C#CC2CCCCC2 | C21H29N5O2
